### PR TITLE
[Merged by Bors] - chore: cleanup of many set_option deprecated.linter false

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Ring/Parity.lean [hunk 1]
```diff
@@ -88,7 +88,6 @@ lemma Even.pow_of_ne_zero (ha : Even a) : ∀ {n : ℕ}, n ≠ 0 → Even (a ^ n
 /-- An element `a` of a semiring is odd if there exists `k` such `a = 2*k + 1`. -/
 def Odd (a : α) : Prop := ∃ k, a = 2 * k + 1
 
-set_option linter.deprecated false in
 lemma odd_iff_exists_bit1 : Odd a ↔ ∃ b, a = 2 * b + 1 := exists_congr fun b ↦ by rw [two_mul]
```
Comment (Command-Master) [inline Mathlib/Algebra/Ring/Parity.lean:91]: Should this be renamed? Also, the proof now can be just `Iff.rfl`, so this can be `odd_def`

File: Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean [hunk 2]
```diff
@@ -93,21 +92,22 @@ theorem GradedAlgebra.lift_ι_eq (i' : ZMod 2) (x' : evenOdd Q i') :
     | add x y i hx hy ihx ihy =>
       -- Note: in https://github.com/leanprover-community/mathlib4/pull/8386 `map_add` had to be specialized to avoid a timeout
       -- (the definition was already very slow)
-      rw [AlgHom.map_add, ihx, ihy, ← AddMonoidHom.map_add]
+      rw [map_add, ihx, ihy, ← AddMonoidHom.map_add]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean:95]: I am pretty sure `AlgHom.map_add` was used for performance reasons...

File: Mathlib/Algebra/Ring/Parity.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Algebra/Ring/Parity.lean:91]: Follow-up PR please.

**Comment by kim-em** [comment]
!bench

File: Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean:95]: Looks like I correctly remembered

Comment (kim-em) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean:95]: The difference here is 5000 heartbeats, again inconsequential.

**Comment by kim-em** [comment]
For ExteriorAlgebra, we're looking at either 20k heartbeats using the deprecated lemma, or 32k without. This is far under the limit, and minor, so I don't think we need to worry.

File: Mathlib/SetTheory/Cardinal/Aleph.lean [hunk 3]
```diff
@@ -483,6 +483,8 @@ theorem aleph1_eq_lift {c : Cardinal.{u}} : ℵ₁ = lift.{v} c ↔ ℵ₁ = c :
 theorem lift_eq_aleph1 {c : Cardinal.{u}} : lift.{v} c = ℵ₁ ↔ c = ℵ₁ := by
   simpa using lift_inj (b := ℵ₁)
 
+theorem aleph_eq_aleph' (o : Ordinal) : ℵ_ o = preAleph (ω + o) :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Aleph.lean:486]: This theorem is a duplicate of [`Cardinal.aleph_eq_preAleph`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/Aleph.html#Cardinal.aleph_eq_preAleph) and it should have been deprecated.

Comment (kim-em) [reply Mathlib/SetTheory/Cardinal/Aleph.lean:486]: @vihdzp, would you mind just pushing this change to this PR?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Grading.lean:92]: Then you should remove the comment above
